US06288120B1
(3-{[Methanesulfonyl-(4-methyl-benzyl)-amino]-methyl}-phenyl)-acetic acid ethyl ester.
To a solution of (3-{[(4-methyl-benzyl)-amino]-methyl}-phenyl)-acetic acid ethyl ester (1 19 mg, 0.401 mmol) and triethylamine (0.61 mL, 0.726 mmol) in CH2Cl2 (2 mL) at 0° C. was added methanesulfonyl chloride (0.031 mL, 0.405 mmol). The reaction was stirred at room temperature for 2.5 h and 1N HCl was added. The product was extracted into CH2Cl2 (3×). The organic solution was dried over MgSO4, filtered, and concentrated in vacuo. The product was purified by medium pressure chromatography (3:1 hexanes:EtOAc) to provide the title compound (101.4 mg). 1H NMR (400 MHz, CDCl3) δ 7.13-7.36 (m, 8H), 4.274.30 (m, 4H), 4.14 (q, 2H), 3.60 (s, 2H), 2.74 (s, 3H), 2.33 (s, 3H); MS 376 (M+1).

reactant | (3-{[(4-methyl-benzyl)-amino]-methyl}-phenyl)-acetic acid ethyl ester | 0.401 mmol, 19 mg | C(C)OC(CC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C)=O | C19H23NO2
reactant | triethylamine | 0.726 mmol, 0.61 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.405 mmol, 0.031 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1N | Cl | ClH
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (3-{[Methanesulfonyl-(4-methyl-benzyl)-amino]-methyl}-phenyl)-acetic acid ethyl ester | 101.4 mg | C(C)OC(CC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C)S(=O)(=O)C)=O | C20H25NO4S
